### PR TITLE
[Merged by Bors] - feat(RingTheory): add lemmas about `reesAlgebra`

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Some lemmas for `reesAlgebra` that are helpful for building associated graded ring.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/ReesAlgebra.lean [hunk 1]
```diff
@@ -121,3 +122,43 @@ instance [IsNoetherianRing R] : Algebra.FiniteType R (reesAlgebra I) :=
...
+
+lemma mem_map_algebraMap_reesAlgebra_iff (f : reesAlgebra I) :
+    f ∈ I.map (algebraMap R (reesAlgebra I)) ↔ ∀ n, f.1.coeff n ∈ I ^ (n + 1) := by
+  refine ⟨fun h n ↦ ?_, fun h ↦ ?_⟩
+  · rw [← Submodule.restrictScalars_mem R, ← Ideal.smul_top_eq_map] at h
+    induction h using Submodule.smul_induction_on' with
+    | smul r hr m hm =>
+      simpa [pow_succ'] using Ideal.mul_mem_mul hr ((mem_reesAlgebra_iff I _).mp m.2 n)
+    | add x hx y hy memx memy => simpa using add_mem memx memy
+  · have mem' (i : ℕ) {r : R} : r ∈ I ^ i → _ := fun mem ↦ reesAlgebra.monomial_mem.mpr mem
```
Comment (vlad902) [inline Mathlib/RingTheory/ReesAlgebra.lean]:
```suggestion
  · have mem' (i : ℕ) {r : R} : r ∈ I ^ i → _ := reesAlgebra.monomial_mem.mpr
```

File: Mathlib/RingTheory/ReesAlgebra.lean [hunk 2]
```diff
@@ -121,3 +122,43 @@ instance [IsNoetherianRing R] : Algebra.FiniteType R (reesAlgebra I) :=
...
+    have mem (i : ℕ) := reesAlgebra.monomial_mem.mpr ((mem_reesAlgebra_iff I _).mp f.2 i)
+    have : f = ∑ i ∈ f.1.support, ⟨(Polynomial.monomial i) (f.1.coeff i), mem i⟩ :=
```
Comment (vlad902) [inline Mathlib/RingTheory/ReesAlgebra.lean]: I personally find this easier to read here and below
```suggestion
    have : f = ∑ i ∈ f.1.support, ⟨monomial i (f.1.coeff i), mem i⟩ :=
```

File: Mathlib/RingTheory/ReesAlgebra.lean [hunk 3]
```diff
@@ -121,3 +122,43 @@ instance [IsNoetherianRing R] : Algebra.FiniteType R (reesAlgebra I) :=
...
+    rw [this]
+    apply sum_mem (fun i hi ↦ ?_)
+    have {r : R} (h' : r ∈ I * I ^ i) : ⟨(Polynomial.monomial i) r, mem' i (Ideal.mul_le_left h')⟩
+      ∈ I.map (algebraMap R (reesAlgebra I)) := by
+      induction h' using Submodule.mul_induction_on' with
+      | mem_mul_mem s hs t ht =>
+        have : ⟨(Polynomial.monomial i) (s * t), mem' i (Ideal.mul_mem_left _ s ht)⟩ =
+          s • (⟨(Polynomial.monomial i) t, mem' i ht⟩: reesAlgebra I) := by
+          simp [Polynomial.smul_monomial]
+        rw [this, Algebra.smul_def]
```
Comment (vlad902) [inline Mathlib/RingTheory/ReesAlgebra.lean]: This is easier for me to read but up to you whether you agree
```suggestion
        simp_rw [← smul_eq_mul, ← smul_monomial]
        rw [← SetLike.mk_smul_mk (hx := mem' i ht), Algebra.smul_def]
```

File: Mathlib/RingTheory/ReesAlgebra.lean [hunk 4]
```diff
@@ -121,3 +122,41 @@ instance [IsNoetherianRing R] : Algebra.FiniteType R (reesAlgebra I) :=
...
+
+lemma mem_map_algebraMap_reesAlgebra_iff (f : reesAlgebra I) :
+    f ∈ I.map (algebraMap R (reesAlgebra I)) ↔ ∀ n, f.1.coeff n ∈ I ^ (n + 1) := by
+  refine ⟨fun h n ↦ ?_, fun h ↦ ?_⟩
+  · rw [← Submodule.restrictScalars_mem R, ← Ideal.smul_top_eq_map] at h
+    induction h using Submodule.smul_induction_on' with
+    | smul r hr m hm =>
+      simpa [pow_succ'] using Ideal.mul_mem_mul hr ((mem_reesAlgebra_iff I _).mp m.2 n)
+    | add x hx y hy memx memy => simpa using add_mem memx memy
+  · have mem' (i : ℕ) {r : R} : r ∈ I ^ i → _ := reesAlgebra.monomial_mem.mpr
```
Comment (faenuccio) [inline Mathlib/RingTheory/ReesAlgebra.lean]: Can you make the `_` more explicit? Otherwise the proof is a bit unreadable.

File: Mathlib/RingTheory/ReesAlgebra.lean [hunk 5]
```diff
@@ -121,3 +122,41 @@ instance [IsNoetherianRing R] : Algebra.FiniteType R (reesAlgebra I) :=
...
+    have mem (i : ℕ) := reesAlgebra.monomial_mem.mpr ((mem_reesAlgebra_iff I _).mp f.2 i)
+    have : f = ∑ i ∈ f.1.support, ⟨monomial i (f.1.coeff i), mem i⟩ :=
```
Comment (faenuccio) [inline Mathlib/RingTheory/ReesAlgebra.lean]: Isn't this a general result about terms of the `reesAlgebra`? Does it depend on something from the current context?

File: Mathlib/RingTheory/ReesAlgebra.lean [hunk 6]
```diff
@@ -121,3 +122,41 @@ instance [IsNoetherianRing R] : Algebra.FiniteType R (reesAlgebra I) :=
...
+      SetCoe.ext (by simpa using f.1.as_sum_support)
+    rw [this]
+    apply sum_mem (fun i hi ↦ ?_)
+    have {r : R} (h' : r ∈ I * I ^ i) : ⟨monomial i r, mem' i (Ideal.mul_le_right h')⟩
+      ∈ I.map (algebraMap R (reesAlgebra I)) := by
+      induction h' using Submodule.mul_induction_on' with
+      | mem_mul_mem s hs t ht =>
+        simp_rw [← smul_eq_mul, ← smul_monomial]
+        rw [← SetLike.mk_smul_mk (hx := mem' i ht), Algebra.smul_def]
```
Comment (faenuccio) [inline Mathlib/RingTheory/ReesAlgebra.lean]: Can you either insert this `rw` in the previous `simp_rw` or (better) squeeze the previous one?

File: Mathlib/RingTheory/ReesAlgebra.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/ReesAlgebra.lean]: Yes, it is general fact, but I am not completely sure whether this is useful since it is direct from polynomial. I can add it though.

File: Mathlib/RingTheory/ReesAlgebra.lean (hunk 6 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/ReesAlgebra.lean]: Sorry, I ain't got a good idea on how to not use `simp_rw`, but inserting works fine.

**Comment by faenuccio** [comment]
thanks

bors merge
